US07893056B2
4-Methyl-N-(1,3-thiazol-2-ylmethyl)-1-piperazinamine (2.2169 g, 10.44 mmol) was dissolved in THF (30 mL) and triethylamine (4.37 ml, 31.3 mmol). Then tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate (3.89 g, 7.83 mmol) and DMSO (5 mL) were added. The reaction was left to stir overnight. The THF was evaporated away, and the mixture was diluted with water. The aqueous layer was extracted with ethyl acetate, and the organics were dried (Na2SO4) and evaporated. Purification by silica gel chromatography and RP-HPLC provided tris(1,1-dimethylethyl) 2-{2-chloro-5-fluoro-6-[(4-methyl-1-piperazinyl)(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate (0.2014 g, 3%). LCMS: (M+H)+=674.6.

reactant | 4-Methyl-N-(1,3-thiazol-2-ylmethyl)-1-piperazinamine | 10.44 mmol, 2.2169 g | CN1CCN(CC1)NCC=1SC=CN1 | C9H16N4S
reactant | triethylamine | 31.3 mmol, 4.37 ml | C(C)N(CC)CC | C6H15N
reactant | tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate | 7.83 mmol, 3.89 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)Cl)Cl)C(=O)OC(C)(C)C | C19H27Cl2FN4O6
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tris(1,1-dimethylethyl) 2-{2-chloro-5-fluoro-6-[(4-methyl-1-piperazinyl)(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate | 0.2014 g, 3% | ClC1=NC(=C(C(=N1)N(N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)F)N(CC=1SC=CN1)N1CCN(CC1)C | C28H42ClFN8O6S
